US08242133B2
A mixture of 0.28 g of 2-(3-aminopyridin-4-yl)-5-(trifluoromethyl)benzoxazole and 3 ml of acetic anhydride was stirred while heating at 60° C. for two hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was washed with ethyl acetate to give 0.17 g of N-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]acetamide (hereinafter, referred to as “active compound 82”).

reactant | 2-(3-aminopyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | NC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H8F3N3O
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | N-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]acetamide | 0.17 g | FC(C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)NC(C)=O)C1)(F)F | C15H10F3N3O2
